US04921851
In a mixture of 15 ml of dimethylacetamide and 15 ml of dichloromethane are dissolved 5.17 g of ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetate and 1.1 ml of pyridine and, under ice-cooling and stirring, 2.21 ml of chloroacetyl chloride is added dropwise. With ice-cooling, the mixture is stirred for 30 minutes and the reaction mixture is poured into 150 ml of ice-water and extracted with dichloromethane. The extract is washed with water, aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution in that order and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the residue is subjected to silica gel (200 g) column chromatography, elution being carried out with chloroform-ethyl acetate (9:1 and 5:1). Fractions containing the desired compound are collected and concentrated under reduced pressure. The residue is dissolved in a mixture of 8.8 ml of dioxane and 62 ml of ethanol, followed by addition of 8.8 ml of 2 N aqueous sodium hydroxide solution. The mixture is stirred at room temperature for 48 hours and, then, 1.2 ml of 2 N aqueous sodium hydroxide solution is added and stirring is continued for 6 hours. The reaction mixture is concentrated under reduced pressure and the residue is dilluted with water and washed with ethyl acetate. The solution is adjusted to pH 2.0 with diluted hydrochloric acid and extracted with ethyl acetate. The extract is washed with aqueous sodium chloride solution and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and a mixture of hexane and ethyl acetate (4:1) is added to the residue. The resulting light yellow powder is collected by filtration to give 2.47 g of 2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid.

reactant | ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetate | 5.17 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCCNC(=O)OC(C)(C)C | C15H24N4O5S
reactant | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 2.21 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid | 2.47 g | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCCNC(=O)OC(C)(C)C | C15H21ClN4O6S
